US07842688B2
g) 8-Hydroxymethyl-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one
A solution of 3.72 g of methyl 4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinoline-8-carboxylate in 100 ml of tetrahydrofuran is admixed with 1.83 g of lithium borohydride and then stirred at 50° C. over 1 hour. The reaction mixture is cooled to room temperature, diluted with tert-butyl methyl ether and stirred with saturated aqueous sodium bicarbonate solution until no more gas is formed. The phases are separated—the organic phase is washed with water, dried over sodium sulphate and concentrated by evaporation. The crude title compound is obtained as a brown-yellow oil from the residue. Rt=3.02.

reactant | methyl 4,4-dimethyl-2-oxo-1,2,3,4-tetrahydroquinoline-8-carboxylate | 3.72 g | CC1(CC(NC2=C(C=CC=C12)C(=O)OC)=O)C | C13H15NO3
reactant | lithium borohydride | 1.83 g | [BH4-].[Li+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | 8-Hydroxymethyl-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | OCC=1C=CC=C2C(CC(NC12)=O)(C)C | C12H15NO2
